US09290451B2
a) 5-Bromo-6-(1,1,1-trifluoropropan-2-yloxy)picolinic acid
5-Bromo-6-chloropicolinic acid (5 g, 21.1 mmol; CAN 959958-25-9) was dissolved in DMSO (100 mL) to give a colorless solution. To this solution potassium hydroxide (4.75 g, 84.6 mmol) was added. The reaction mixture turned into a white suspension which was stirred for 15 min. Then 1,1,1-trifluoropropan-2-ol (2.41 g, 1.92 mL, 21.1 mmol) was added. The mixture was stirred for 1 d at ambient temp., poured onto icewater/1N HCl (200 mL) and extracted with EtOAc (2×400 mL). The organic layers were washed with icewater/brine (200 mL), combined and dried over Na2SO4 and concentrated in vacuo to give the title compound (6.9 g, quant.) as orange solid. MS (EI): m/e=312.3 [M−H]−.

reactant | 5-Bromo-6-chloropicolinic acid | 21.1 mmol, 5 g | BrC=1C=CC(=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | potassium hydroxide | 84.6 mmol, 4.75 g | [OH-].[K+]
reactant | 1,1,1-trifluoropropan-2-ol | 21.1 mmol, 1.92 mL, 2.41 g | FC(C(C)O)(F)F | C3H5F3O
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 5-Bromo-6-(1,1,1-trifluoropropan-2-yloxy)picolinic acid | 6.9 g | BrC=1C=CC(=NC1OC(C(F)(F)F)C)C(=O)O | C9H7BrF3NO3
